US07176204B2
3-[3-[N-(3-Pyridylmethyl)carbamoyl]-4-methoxyphenyl]propionic acid
Methyl 3-[3-[N-(3-pyridylmethyl)carbamoyl]-4-methoxy-phenyl]propionate (200 mg, 0.609 mmol), 10 mL of methanol and 10 mL of 1 mol/L aqueous solution of sodium hydroxide were mixed and, after stirring for 4 hours at 60° C., the reaction mixture was concentrated under reduced pressure. The residue was neutralized with. 2 mol/L hydrochloric acid under cooling with ice. The precipitates produced were filtered and dried to obtain 90.0 mg (47%) of the title compound as colorless powder.

reactant | Methyl 3-[3-[N-(3-pyridylmethyl)carbamoyl]-4-methoxy-phenyl]propionate | 0.609 mmol, 200 mg | N1=CC(=CC=C1)CNC(=O)C=1C=C(C=CC1OC)CCC(=O)OC | C18H20N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[3-[N-(3-Pyridylmethyl)carbamoyl]-4-methoxyphenyl]propionic acid | 90.0 mg, 47% | N1=CC(=CC=C1)CNC(=O)C=1C=C(C=CC1OC)CCC(=O)O | C17H18N2O4
